US04127655
5.8 g. of 5-chloro-8-ethyl-8H-pyrazolo[4',3':5,6]-pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine (0.02 mol.), 3 g. of triethylamine and 3.3. g. of 3-trifluoromethylaniline are refluxed in butyl alcohol for 24 hours with stirring. The solvent is removed in vacuo and the residue treated with 20 ml. of water and filtered off. Recrystallization from alcohol yields 8-ethyl-N-[3-(trifluoromethyl)phenyl]-8H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]-pyrimidin-5-amine.

reactant | 5-chloro-8-ethyl-8H-pyrazolo[4',3':5,6]-pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidine | 0.02 mol | ClC1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=CN2 | C11H8ClN7
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-trifluoromethylaniline | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | butyl alcohol | C(CCC)O | C4H10O
product | 8-ethyl-N-[3-(trifluoromethyl)phenyl]-8H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]-pyrimidin-5-amine | C(C)N1N=CC2=C1N=CC=1C(=NC=3N(C12)N=CN3)NC3=CC(=CC=C3)C(F)(F)F | C18H13F3N8
